US07807677B2
cis-4-Amino-5,6-dihydro-4H-cyclopenta[b]thiophene-5-ol (racemate) (23d)
A solution of 5-hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one O-benzyl-oxime (55.1 g, 0.212 mol) was added drop wise at about 5° C. to 1.0 M solution of borane in THF (650 mL) and the mixture was stirred at room temperature overnight. The mixture was refluxed for two hours and cooled to about 5° C. Water (70 mL) and 20% potassium hydroxide solution (80 mL) was added dropwise. The mixture was refluxed for two hours and cooled. Brine was added and the THF removed under reduced pressure. The mixture was extracted five times with DCM, dried with sodium sulphate and evaporated under reduced pressure. The product was purified by silica gel chromatography with DCM and 10% methanol. Yield: 17.8 g=54%

reactant | 5-hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one O-benzyl-oxime | 0.212 mol, 55.1 g | C(C1=CC=CC=C1)ON=C1C(CC=2SC=CC21)O | C14H13NO2S
reactant | borane | B | BH3
reactant | Water | 70 mL | O | H2O
reactant | potassium hydroxide | 80 mL | [OH-].[K+]
solvent | THF | 650 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | cis-4-Amino-5,6-dihydro-4H-cyclopenta[b]thiophene-5-ol | N[C@H]1[C@H](CC=2SC=CC21)O | C7H9NOS
